US06987114B1
1-Benzyl-5-ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidine-dione
5-Ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione and benzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (275 mg, yield: 75.0%).

reactant | 5-Ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | C(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O2S
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 1-Benzyl-5-ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidine-dione | 275 mg, yield: 75.0% | C(C1=CC=CC=C1)N1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C21H22N2O2S
